US06051731
(+/-) 1-Hydroxy-6-acetyl-1,2,3,4-tetrahydro-4,4-dimethyl-naphthalene (Compound D25)
A solution of 1-hydroxy-6-(1,3-dioxolan-2-yl)]-1,2,3,4-tetrahydro-4,4-dimethylnaphthalene (Compound D24, 54.9 mg, 0.21 mmol) in 3 ml of 10% HCa and 3 ml THF was heated at 100° C. for 1.5 h and cooled to room temperature. The reaction mixture was diluted with ethyl acetate and neutralized with sat. NaHCO3. The organic layer was further washed with brine, dried and concentrated to an oil. Purification by column chromatography (silica) with ethyl acetate/hexane (1/9) gave the title compound as a clear oil (24.8 mg).

reactant | 1,2,3,4-tetrahydro-4,4-dimethylnaphthalene | 0.21 mmol, 54.9 mg | CC1(CCCC2=CC=CC=C12)C | C12H16
reactant | THF | 3 ml | C1CCOC1 | C4H8O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (+/-) 1-Hydroxy-6-acetyl-1,2,3,4-tetrahydro-4,4-dimethyl-naphthalene | 24.8 mg | OC1CCC(C2=CC(=CC=C12)C(C)=O)(C)C | C14H18O2
